US04040813
A solution comprising 5 g of 2-dimethylamino-1-cyclohexanol, 10 g of 1-bromooctane and 5 ml of dimethylformamide was heated in a glass pressure bottle at about 95° for 16 hours. p-Xylene (25 ml) was added and the solution was concentrated at 60° using a film evaporator to remove dimethylformamide as its azeotrope with xylene. A second 25 ml portion of p-xylene was added and the azeotrope distilled until the residue was free of volatile material. This residue was dissolved in water, and the aqueous solution was extracted five times with diethyl ether. The aqueous solution was then concentrated under reduced pressure to give (2-hydroxycyclohexyl)(dimethyl)octylammonium bromide, a clear amorphous gum.

reactant | 2-dimethylamino-1-cyclohexanol | 5 g | CN(C1C(CCCC1)O)C | C8H17NO
reactant | 1-bromooctane | 10 g | BrCCCCCCCC | C8H17Br
reactant | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | p-Xylene | 25 ml | CC=1C=CC(=CC1)C | C8H10
product | (2-hydroxycyclohexyl)(dimethyl)octylammonium bromide | [Br-].OC1C(CCCC1)[N+](CCCCCCCC)(C)C | InChI=1S/C16H34NO.BrH/c1-4-5-6-7-8-11-14-17(2,3)15-12-9-10-13-16(15)18;/h15-16,18H,4-14H2,1-3H3;1H/q+1;/p-1
